US04499283
Preparation of 3-butyramido-2,4-pentanedione
The above procedure was repeated using butyric anhydride and the following oximes: 3-oximino-2,4-hexanedione, 1-benzoyl-1-oximinoacetone and 5-methyl-3-oximino-2,4-hexandione.

reactant | butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | 3-oximino-2,4-hexanedione | N(O)=C(C(C)=O)C(CC)=O | C6H9NO3
reactant | 1-benzoyl-1-oximinoacetone | C(C1=CC=CC=C1)(=O)C(C(=O)C)=NO | C10H9NO3
reactant | 5-methyl-3-oximino-2,4-hexandione | CC(C(C(C(C)=O)=NO)=O)C | C7H11NO3
product | 3-butyramido-2,4-pentanedione | C(CCC)(=O)NC(C(C)=O)C(C)=O | C9H15NO3
